US05256293
The β-isomer, 3-(6,7-dimethyl-2-naphthoyl)propanoic acid (6.58 g, 0.026 mole) was dissolved into 200 ml of THF in a hydrogenation pressure bottle. To the solution was carefully added 30% Pd/C (700 mg). The whole mixture was shaken for 15 hrs under H2 (40 psi) at room temperature. After releasing pressure, Pd/C was removed by passing the THF solution through the celite pad. The solution was concentrated to afford 4-(6,7-Dimethyl-2-naphthyl)butanoic acid as a gray solid material (6.21 g, 0.026 mole, 100% yield). mp 141.0°-142.0° C., 1H NMR (CDCl3)δ 1.98-2.12 (m,2H), 2.36-2.41 (m,8H), 2.81 (t, J=7.4 Hz,2H), 7.22 (d, J=8.3 Hz,1H), 7.49-7.55 (m,3H), 7.65 (d, J=8.3 Hz,1H), IR (KBr) cm-1 3700-3450,2920,1698, Anal. Calcd for C16H 18 O2 : C, 79.31; H, 7.49. Found: C, 79.28; H, 7.49.

reactant | 3-(6,7-dimethyl-2-naphthoyl)propanoic acid | 0.026 mole, 6.58 g | CC=1C=C2C=CC(=CC2=CC1C)C(=O)CCC(=O)O | C16H16O3
catalyst | Pd/C | 700 mg | [Pd] | Pd
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(6,7-Dimethyl-2-naphthyl)butanoic acid | CC=1C=C2C=CC(=CC2=CC1C)CCCC(=O)O | C16H18O2
